US05670505
Hydrochloric acid (0.22 ml) was added to a stirred mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[N-(2-hydroxybenzylidene)-2-aminoethyl]-2-(1H-indol-3-yl-methyl)piperazine (0.80 g), ethyl acetate (12 ml) and methanol (6 ml) at room temperature. The mixture was stirred at 50° C. for 4.5 hours and then concentrated in vacuo to give an oil. The oil was treated with 4N hydrogen chloride in dioxane solution (0.33 ml) to afford (2R)-4-(2-aminoethyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine dihydrochloride (0.57 g).

reactant | Hydrochloric acid | 0.22 ml | Cl | ClH
reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[N-(2-hydroxybenzylidene)-2-aminoethyl]-2-(1H-indol-3-yl-methyl)piperazine | 0.80 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCN=CC2=C(C=CC=C2)O)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C31H28F6N4O2
reactant | ethyl acetate | 12 ml | C(C)(=O)OCC | C4H8O2
reactant | methanol | 6 ml | CO | CH4O
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dioxane | 0.33 ml | O1CCOCC1 | C4H8O2
product | (2R)-4-(2-aminoethyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine dihydrochloride | 0.57 g | Cl.Cl.NCCN1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CNC2=CC=CC=C12 | InChI=1S/C24H24F6N4O.2ClH/c25-23(26,27)17-9-15(10-18(12-17)24(28,29)30)22(35)34-8-7-33(6-5-31)14-19(34)11-16-13-32-21-4-2-1-3-20(16)21;;/h1-4,9-10,12-13,19,32H,5-8,11,14,31H2;2*1H/t19-;;/m1../s1
